US08735414B2
2-chloropyridine-5-sulfonyl chloride (12 g, 56.6 mmol) was added to a solution of (S)-1,1,1-trifluoropropan-2-amine hydrochloride (7.8 g, 51.2 mmol) in pyridine (15 mL) at 0° C. The mixture was stirred at room temperature for 10 minutes and diluted with ethyl acetate (200 ml) and washed with 3 N aq. HCl (2×100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The solid was triturated with hexane (2×40 mL) and filtered to provide (S)-6-chloro-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide as an off-white solid (11.84 g, 75%). 1H NMR (500 MHz, CDCl3): δ0.81 (1H, d, J=2.4 Hz), 8.18 (1H, dd, J=2.5 Hz, 2.6 Hz), 7.51 (1H, d, J=8.8 Hz), 4.92 (1H, br s), 4.08 (1H, m), 1.45 (3H, d, J=7.0 Hz).

reactant | 2-chloropyridine-5-sulfonyl chloride | 56.6 mmol, 12 g | ClC1=NC=C(C=C1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | (S)-1,1,1-trifluoropropan-2-amine hydrochloride | 51.2 mmol, 7.8 g | Cl.FC([C@H](C)N)(F)F
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (S)-6-chloro-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide | 11.84 g, 75% | FC([C@H](C)NS(=O)(=O)C=1C=NC(=CC1)Cl)(F)F | C8H8ClF3N2O2S
